US06703387B2
A mixture of 3 g (13.2 mmol) of 2-phenethylbenzoic acid, 3.8 g (19.8 mmol) of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride, 2.7 g (20.0 mmol) of 1-hydroxybenzotriazole hydrate, 3 ml (23 mmol) of N-ethylmorpholine and 1.94 g (19.9 mmol) of N,O-dimethylhydroxylamine hydrochloride was stirred in 50 ml of dichloromethane at room temperature for 2 hours. The solution was diluted with dichloromethane and washed sequentially with saturated aqueous citric acid solution and saturated aqueous sodium bicarbonate solution, dried over magnesium sulphate, filtered and evaporated to afford N-methoxy-N-methyl-2-phenethylbenzamide as a colorless oil. To a solution of 1 g (3.7 mmol) of this oil in 10 ml tetrahydrofuran at 0° C. was added 2.2 ml of a 1M solution of lithium aluminium hydride in tetrahydrofuran. The solution was stirred at 0° C. for 25 minutes and saturated aqueous potassium hydrogensulphate and ether were then added and the mixture stirred at room temperature for 30 minutes. The layers were separated and the organic layer washed with saturated aqueous sodium bicarbonate solution, dried over magnesium sulphate, filtered and evaporated to afford 2-phenethyl-benzaldehyde as a colorless oil which was used directly without further purification.

reactant | 2-phenethylbenzoic acid | 13.2 mmol, 3 g | C(CC1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C15H14O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 19.8 mmol, 3.8 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 20.0 mmol, 2.7 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethylmorpholine | 23 mmol, 3 ml | C(C)N1CCOCC1 | C6H13NO
reactant | N,O-dimethylhydroxylamine hydrochloride | 19.9 mmol, 1.94 g | Cl.CNOC
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-methoxy-N-methyl-2-phenethylbenzamide | CON(C(C1=C(C=CC=C1)CCC1=CC=CC=C1)=O)C | C17H19NO2
